US07163947B2
A solution of N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.500 g, 1.59 mmol) in 20 mL of CH2Cl2 was placed under an atmosphere of nitrogen, treated with triethylamine (0.443 mL, 3.34 mmol) and then cooled to 0° C. with an ice water bath. The reaction mixture was treated with cyclopentanecarbonyl chloride (0.203 mL, 1.67 mmol) over 2 min. The reaction was stirred and allowed to come to ambient temperature over 2 h. After 18 h, the reaction was quenched with 15 mL of 10% Na2CO3 solution. The mixture was diluted with 25 mL CHCl3, mixed and then separated. The organic portion was washed with H2O (15 mL) and brine (15 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield a tan foam. The foam was purified by chromatography (SiO2, 96:4 CHCl3: methanol (MeOH)) to yield a light tan solid. The solid was dissolved in boiling 2-propanol (IPA), cooled to ambient temperature and then water was added until an off-white solid precipitated from solution. The precipitate was triturated in the IPA/H2O mixture for 2 h and then collected by vacuum filtration to give N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)cyclopentanecarboxamide (0.106 g) as an off-white solid. mp 75–77° C.;

reactant | N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 1.59 mmol, 0.500 g | NCCCNN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C16H22N6O
reactant | triethylamine | 3.34 mmol, 0.443 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopentanecarbonyl chloride | 1.67 mmol, 0.203 mL | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 2-propanol | CC(C)O | C3H8O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)cyclopentanecarboxamide | 0.106 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(=O)C2CCCC2)COCC | C22H30N6O2
